US03957480
To a stirred solution of sodium acetate (19.7 g., 0.24 mole) in acetic acid (100 ml.) and water (15 ml.), 3-isopropylpyrazole (11.0 g., 0.1 mole) was added, followed by dropwise addition of bromine (16.0 g., 0.11 mole) keeping the internal temperature below 15° C. The mixture was kept at 25° C. for 15 hours, treated with water (200 ml.) and extracted with ethyl ether (3 × 50 ml.), and the ether layer washed with water (1 × 50 ml.) dried, (sodium sulfate) and evaporated under reduced pressure. The resultant pale yellow oil was distilled to give 4-bromo-3-isopropylpyrazole (15.3 g., 81%) with a boiling point of 85° C. at 0.06 mm Hg.

reactant | sodium acetate | 0.24 mole, 19.7 g | C(C)(=O)[O-].[Na+]
reactant | 3-isopropylpyrazole | 0.1 mole, 11.0 g | C(C)(C)C1=NNC=C1 | C6H10N2
reactant | bromine | 0.11 mole, 16.0 g | BrBr | Br2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 15 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 4-bromo-3-isopropylpyrazole | 15.3 g, 81% | BrC=1C(=NNC1)C(C)C | C6H9BrN2
